US07759337B2
Synthesis of N-cyclopropyl-3-(1-(2-(dimethylamino)ethylamino)phthalazin-6-yl)-4-methylbenzamide
6-Bromo-N-(2-(dimethylamino)ethyl)phthalazin-1-amine (115 mg, 390 μmol), potassium acetate (53 mg, 550 μmol), bis(pinacolato)diboron (139 mg, 550 μmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (29 mg, 40 μmol) were suspended in dioxane (4 mL) and placed in the microwave for I 0 min at 160° C. To the reaction was added a mixture of 3-bromo-N-cyclopropyl-4-methylbenzamide (99 mg, 390 μmol), sodium carbonate-2 M in water (0.29 mL, 0.58 mmol), tetrakis(triphenylphosphine)palladium (45 mg, 40 μmol), and ethyl alcohol (5 mL). The reaction was heated in the microwave for 10 min at 160° C. The reaction mixture was diluted with 20 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layer was washed 3× with 20 mL of sodium bicarbonate (saturated, aqueous), dried over sodium sulfate, and concentrated via rotovap to give a crude product. The crude product was purified by chromatography to obtain the title compound. Found MS (ES+): 390(M+H)+.

reactant | 6-Bromo-N-(2-(dimethylamino)ethyl)phthalazin-1-amine | 390 μmol, 115 mg | BrC=1C=C2C=NN=C(C2=CC1)NCCN(C)C | C12H15BrN4
reactant | potassium acetate | 550 μmol, 53 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 550 μmol, 139 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 3-bromo-N-cyclopropyl-4-methylbenzamide | 390 μmol, 99 mg | BrC=1C=C(C(=O)NC2CC2)C=CC1C | C11H12BrNO
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.58 mmol, 0.29 mL | O | H2O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 40 μmol, 29 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 40 μmol, 45 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
product | N-cyclopropyl-3-(1-(2-(dimethylamino)ethylamino)phthalazin-6-yl)-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)NCCN(C)C)=O | C23H27N5O
